US20010047031A1
6-Bromo-3H-benzooxazol-2-one (0.165 g, 0.77 mmol) was added portionwise into a 0° C. suspension of NaH (44.8 mg, 1 mmol, 55%) in dry DMF (4 ml). After 1 hour stirring at room temperature, a solution of triphenylmethylchloride (0.24 g, 0.85 mmol) in DMF (0.5 ml) was added. The reaction mixture was stirred 1 hour at room temperature then quenched with H2O (15 ml). The aqueous phase was extracted with ethyl acetate, the combined organic phases were washed with H2O and brine, dried over Na2SO4 and concentrated to provide 6-bromo-3-trityl-3H-benzooxazol-2-one (0.27 g, 77%) as a beige solid, MS: Mm/e=457.1 (M+H+).

reactant | 6-Bromo-3H-benzooxazol-2-one | 0.77 mmol, 0.165 g | BrC1=CC2=C(NC(O2)=O)C=C1 | C7H4BrNO2
reactant | NaH | 1 mmol, 44.8 mg | [H-].[Na+]
reactant | triphenylmethylchloride | 0.85 mmol, 0.24 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 6-bromo-3-trityl-3H-benzooxazol-2-one | 0.27 g, 77% | BrC1=CC2=C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C26H18BrNO2
